US09212182B2
A solution of 3-aminoisoxazole (0.867 ml, 11.74 mmol) and 1-(4-bromo-5-chloro-2-methoxyphenyl)-4-methyl-2-oxo-1,2-dihydroquinoline-6-sulfonyl chloride (1.120 g, 2.347 mmol) in 10 mL THF, was cooled to 0° C. LHMDS 1N in THF (11.74 ml, 11.74 mmol) was added, and the cooling bath was removed. After stirring for an additional hour, the reaction mixture was treated with hcl 4N in dioxane (5.87 ml, 23.47 mmol) and was concentrated. Purification of the crude residue by reverse phase column chromatography [Redisep Gold C18, 10-100% (0.1% NH4OH in MeOH)/(0.1% NH4OH in water)] gave 1-(4-bromo-5-chloro-2-methoxyphenyl)-N-(isoxazol-3-yl)-4-methyl-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.307 g, 0.585 mmol, 24.92% yield). In/z (ESI) 525.9 (M+H)+.

reactant | 3-aminoisoxazole | 11.74 mmol, 0.867 ml | NC1=NOC=C1 | C3H4N2O
reactant | 1-(4-bromo-5-chloro-2-methoxyphenyl)-4-methyl-2-oxo-1,2-dihydroquinoline-6-sulfonyl chloride | 2.347 mmol, 1.120 g | BrC1=CC(=C(C=C1Cl)N1C(C=C(C2=CC(=CC=C12)S(=O)(=O)Cl)C)=O)OC | C17H12BrCl2NO4S
reactant | LHMDS | 1N | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | dioxane | 23.47 mmol, 5.87 ml | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 11.74 mmol, 11.74 ml | C1CCOC1 | C4H8O
product | 1-(4-bromo-5-chloro-2-methoxyphenyl)-N-(isoxazol-3-yl)-4-methyl-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.585 mmol, 0.307 g, 24.92% yield | BrC1=CC(=C(C=C1Cl)N1C(C=C(C2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)C)=O)OC | C20H15BrClN3O5S
